US06916819B2
A solution of 4-hydroxy-6-isopropyl-1H-pyridin-2-one (1.76 g, 11.5 mmol) in 55-60 mL of 50% aq HNO3 is stirred at 70° C. for 2.5 h. After cooling, the reaction mixture is poured into ice-cold H2O (˜100 mL). The resulting solution is allowed to sit in the refrigerator for 3.5 days. The solid that precipitates is collected by filtration, washed with water, and dried to afford 4-hydroxy-6-isopropyl-3-nitro-1H-pyridin-2-one as yellow crystals. 1H NMR (DMSO-d6, 300 MHz) δ 12.30 (br s, 1H), 11.82 (br s, 1H), 5.82 (d, J=1.2 Hz, 1H), 2.71 (sept, J=6.9 Hz, 1H), 1.13 (d, J=6.9 Hz, 6H) ppm.

reactant | 4-hydroxy-6-isopropyl-1H-pyridin-2-one | 11.5 mmol, 1.76 g | OC1=CC(NC(=C1)C(C)C)=O | C8H11NO2
reactant | HNO3 | 55-60 mL | [N+](=O)(O)[O-] | HNO3
product | 4-hydroxy-6-isopropyl-3-nitro-1H-pyridin-2-one | OC1=C(C(NC(=C1)C(C)C)=O)[N+](=O)[O-] | C8H10N2O4
